US06441044B1
d) 1-Cyano-N-[(1R)-1-naphth-2-yl-ethyl]-2,2,3,3-tetramethylcyclopropanecarboxamide
0.61 g (6 mmol) of triethylamine was added to a solution of 1.0 g (6 mmol) of 1-cyano-2,2,3,3-tetramethylcyclopropane-1-carboxylic acid (cf. Org. Prep. Proced. Int. 5, (1973), 25-29) and 1.03 g (6 mmol) of (1 R)-1-naphth-2-ylethylamine in 50 ml of dichloromethane. At 10° C., 0.94 g of 93% pure diethyl cyanophosphonate (6 mmol) was then added dropwise, and the mixture was stirred at room temperature for 12 hours. The reaction solution was concentrated using a rotary evaporator and then purified by silica gel chromatography (mobile phase: methyl tert-butyl ether:hexane=1:9, then 3:7). 1.9 g (99% yield) of the title compound were isolated as a white solid of melting point 169-1750° C.

reactant | triethylamine | 6 mmol, 0.61 g | C(C)N(CC)CC | C6H15N
reactant | 1-cyano-2,2,3,3-tetramethylcyclopropane-1-carboxylic acid | 6 mmol, 1.0 g | C(#N)C1(C(C1(C)C)(C)C)C(=O)O | C9H13NO2
reactant | (1 R)-1-naphth-2-ylethylamine | 6 mmol, 1.03 g | C1=C(C=CC2=CC=CC=C12)[C@@H](C)N | C12H13N
reactant | diethyl cyanophosphonate | 6 mmol, 0.94 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-Cyano-N-[(1R)-1-naphth-2-yl-ethyl]-2,2,3,3-tetramethylcyclopropanecarboxamide | 1.9 g, 99% yield | C(#N)C1(C(C1(C)C)(C)C)C(=O)N[C@H](C)C1=CC2=CC=CC=C2C=C1 | C21H24N2O
